US09062004B2
4-Chloro-5-n-propylamino-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one was prepared from 4,5-Dichloro-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one in a similar manner using n-propylamine (4 equivalents). 1H NMR (300 MHz CDCl3) 7.6 (s, 1H), 5.3 (m, 1H), 4.65 (brs, 1H), 3.5 (q, 2H, J=7 Hz), 1.72 (q, 2H, J=7 Hz), 1.55 (m, 4H), 1.3 (m, 1H), 1.15 (m, 1H), 1.15 (s, 6H), 1.04 (t, 3H, J=7 Hz), 0.95 (s, 6H).

reactant | 4,5-Dichloro-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one | ClC=1C(N(N=CC1Cl)C1CC(CC(C1)(C)C)(C)C)=O | C14H20Cl2N2O
reactant | n-propylamine | 4 equivalents | C(CC)N | C3H9N
product | 4-Chloro-5-n-propylamino-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one | ClC=1C(N(N=CC1NCCC)C1CC(CC(C1)(C)C)(C)C)=O | C17H28ClN3O
